US05668148
1-(2-(1-Naphthyl)ethyl)-4-(5-(1,4-benzodioxan-6-yl)isoxazol-3-yl)piperdine
To 25 mL round bottomed flask with a stirring bar and an argon inlet was added 4-(3-(1,4-benzodioxan-6-yl)isoxazol-5-yl)piperdine and 1-(1,1-dimethylethoxy-carbonyl)-4-(5-(1,4-benzodioxan-6-yl)isoxazol-3-yl)piperdine (231 mg, 0.809 mmol), 1-naphthylacetaldehyde (165.3 mg, 0.971 mmol) 1,2-dichloroethane (5 mL), glacial acetic acid (55.6 ml, 0.971 mmol) and sodium triacetoxyborohydride (411.6 mg 1.942 mmol). This mixture was stirred at room temperature for 24 h then quenched with saturated aqueous sodium bicarbonate (75 ml), extracted with EtOAc (3×75 ml) washed with brine, dried (Na2SO4) and filtered. Removal of the solvent in vacuo gave a tan oil. This material was chromatographed on silica gel using 3% 2-propanol in NH3 saturated CHCl3 as eluant. The major regioisomer was obtained as an oil (upper Rf) which was crystallized from EtOAc as the hydrochloride salt, 1-(2-(1-naphthyl)ethyl)-4-(3-(1,4-benzodioxan-6-yl)isoxazol-5-yl)piperdine hydrochloride, mp 239.5°-241° C. FAB MS data are consistent with theoretical m/e=441. 1H NMR free base (CDCl3): d 1.90 (m, 2H); 2.13 (br d, J=11.5 Hz, 2H); 2.25 (br t, J=9.5 Hz, 2H); 2.78 (m, 1H), 3.16 (br d, J=11.6 Hz, 2H); 3.31 (m, 2H); 4.28 (s, 4H); 6.46 (s, 1H); 6.92 (d, J=8.2 Hz, 1H); 7.25-7.54 (m, 7H); 7.73 (d, J=8.1 Hz, 1H); 7.86 (dd, J=1.5, 8.3 Hz, 1H); 8.07 (d, J=8.4 Hz, 1H).

reactant | 4-(3-(1,4-benzodioxan-6-yl)isoxazol-5-yl)piperdine | O1CCOC2=C1C=CC(=C2)C2=NOC(=C2)C2CCNCC2 | C16H18N2O3
reactant | 1-(1,1-dimethylethoxy-carbonyl)-4-(5-(1,4-benzodioxan-6-yl)isoxazol-3-yl)piperdine | 0.809 mmol, 231 mg | CC(C)(OC(=O)N1CCC(CC1)C1=NOC(=C1)C1=CC2=C(OCCO2)C=C1)C | C21H26N2O5
reactant | 1-naphthylacetaldehyde | 0.971 mmol, 5 mL, 165.3 mg | C1(=CC=CC2=CC=CC=C12)CC=O | C12H10O
reactant | acetic acid | 0.971 mmol, 55.6 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.942 mmol, 411.6 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-(2-(1-Naphthyl)ethyl)-4-(5-(1,4-benzodioxan-6-yl)isoxazol-3-yl)piperdine | C1(=CC=CC2=CC=CC=C12)CCN1CCC(CC1)C1=NOC(=C1)C1=CC2=C(OCCO2)C=C1 | C28H28N2O3
